US05075313
Isatoic anhydride (32.63 g, 200 mmol) and 3-methoxyaniline (24.63 g, 200 mmol) were combined neat and heated at 120° C. for 2 hours. The reaction product was taken up in methylene chloride and chromatographed (20% ethyl acetate/hexanes, SiO2), to provide 38.75 g (80%) of 2-amino-N-(3-methoxyphenyl)benzamide. An analytical sample was obtained by recrystallization from ethyl acetate: mp 75°-77° C.

reactant | Isatoic anhydride | 200 mmol, 32.63 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 3-methoxyaniline | 200 mmol, 24.63 g | COC=1C=C(N)C=CC1 | C7H9NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-amino-N-(3-methoxyphenyl)benzamide | 38.75 g, 80% | NC1=C(C(=O)NC2=CC(=CC=C2)OC)C=CC=C1 | C14H14N2O2
